US05958914
To a suspension of 2-(2-formylaminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetic acid (5 g) in tetrahydrofuran (50 ml) was added N-chlorosuccinimide (3.89 g) at room temperature. After the mixture was stirred at room temperature for 5 hours 28 minutes, the reaction mixture was poured into a mixture of 5% aqueous sodium thiosulfate solution (25 ml) and ethyl acetate (50 ml) under ice-cooling. The mixture was adjusted to pH 3.0 with 30% aqueous potassium carbonate solution under ice-cooling, stirred for 1 hour at the same temperature, and the resulting precipitate was collected by filtration to give 2-(5-chloro-2-formylaminothiazol-4-yl)-2-(Z)-(acetoxyimino)-acetic acid (4.02 g).

reactant | 2-(2-formylaminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetic acid | 5 g | C(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)=O | C8H7N3O5S
reactant | N-chlorosuccinimide | 3.89 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium thiosulfate | 25 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(5-chloro-2-formylaminothiazol-4-yl)-2-(Z)-(acetoxyimino)-acetic acid | 4.02 g | ClC1=C(N=C(S1)NC=O)/C(/C(=O)O)=N/OC(C)=O | C8H6ClN3O5S
